US06831164B2
2,3,4,6-Tetra-O-acetyl-1-O-(1-hydroxy-eth-2-yl)-mannopyranose
A mixture that consists of 34.83 g (100 mmol) of 2,3,4,6-tetra-O-acetyl-mannopyranose, 1.7 g (5 mmol) of tetrabutylammonium hydrogen sulfate and 82.93 g (600 mmol) of fine-powder potassium hydroxide in 350 ml of diethoxymethane is cooled to 0° C. At 0° C., 32.26 g (150 mmol) of 2-benzyloxy-ethylbromide is added in drops over 30 minutes while being stirred vigorously. It is stirred for two hours at 0° C. 300 ml of benzene is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of ethanol. 5 g of palladium (10%) on activated carbon is added thereto and hydrogenated until hydrogen absorption is completed. Then, catalyst is suctioned out, it is rewashed with a little ethanol and evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/nhexane/ethanol=20:8:2). The product-containing fractions are concentrated by evaporation.

reactant | 2,3,4,6-tetra-O-acetyl-mannopyranose | 100 mmol, 34.83 g | C(C)(=O)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O10
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-benzyloxy-ethylbromide | 150 mmol, 32.26 g | C(C1=CC=CC=C1)OCCBr | C9H11BrO
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
catalyst | tetrabutylammonium hydrogen sulfate | 5 mmol, 1.7 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethoxymethane | 350 ml | C(C)OCOCC | C5H12O2
product | 2,3,4,6-Tetra-O-acetyl-1-O-(1-hydroxy-eth-2-yl)-mannopyranose | C(C)(=O)O[C@@H]1C(OCCO)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H24O11
